US05157026
Step 4: 3-(2'-Aminobiphen-4-yl)methyl-7-methyl-2-propyl-3H-imidazo[4,5-b]pyridine
To a solution of 0.475 g (1.23 mmol) of 7-methyl-3-[(2'-nitrobiphen-4-yl)methyl]-2-propyl-3H-imidazo[4,5-b]pyridine in 15 mL of absolute ethanol was added 50 mg of 10% palladium on carbon catalyst and the mixture was hydrogenated at 40 psig of hydrogen on a Parr apparatus. Reduction was complete after 1 hour and the reaction mixture was filtered and evaporated in vacuo to afford a tan solid (0.416 g, 95%) which was used in the subsequent step without further purification.

reactant | 7-methyl-3-[(2'-nitrobiphen-4-yl)methyl]-2-propyl-3H-imidazo[4,5-b]pyridine | 1.23 mmol, 0.475 g | CC1=C2C(=NC=C1)N(C(=N2)CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)[N+](=O)[O-] | C23H22N4O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | 3-(2'-Aminobiphen-4-yl)methyl-7-methyl-2-propyl-3H-imidazo[4,5-b]pyridine | 0.416 g, 95% | NC1=C(C2=CC=C(C=C2)CN2C(=NC=3C2=NC=CC3C)CCC)C=CC=C1 | C23H24N4
